US04031226
A mixture of 9 parts of 2-amino-4-fluoro-N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro [4,5]dec-8-yl]ethyl}-benzamide, 8.5 parts of acetic acid anhydride and 85 parts of water is stirred for 30 minutes in a water-bath at about 80° C. The reaction mixture is cooled and alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The aqueous phase is separated and extracted with trichloromethane. The combined organic phases are washed three times with water, dried, filtered and evaporated. The residue is crystallized from 2-propanol. The product is filtered off and dried, yielding 5.2 parts of 2-(acetylamino)-4-fluoro-N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro-[4,5]dec-8-yl]ethyl}benzamide; mp. 195.1° C.

reactant | 2-amino-4-fluoro-N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro [4,5]dec-8-yl]ethyl}-benzamide | NC1=C(C(=O)NCCN2CCC3(C(NCN3C3=CC=C(C=C3)F)=O)CC2)C=CC(=C1)F | C22H25F2N5O2
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 2-(acetylamino)-4-fluoro-N-{2-[1-(4-fluorophenyl)-4-oxo-1,3,8-triazaspiro-[4,5]dec-8-yl]ethyl}benzamide | C(C)(=O)NC1=C(C(=O)NCCN2CCC3(C(NCN3C3=CC=C(C=C3)F)=O)CC2)C=CC(=C1)F | C24H27F2N5O3
